* File: hw2_part2_1_smaller.pex.spi.pex
* Created: Fri Nov 12 00:13:50 2021
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW2_PART2_1_SMALLER%VSS 57 74 79 84 89 94 105 106 116 117 127 128 138
+ 139 247
c0 190 0 2.00086f
c1 181 0 1.42677f
c2 180 0 0.473116f
c3 155 0 1.53053f
c4 142 0 1.08474f
c5 138 0 0.0163356f
c6 131 0 1.08474f
c7 127 0 0.0163356f
c8 120 0 1.08474f
c9 116 0 0.0163356f
c10 109 0 1.08474f
c11 105 0 0.0163356f
c12 97 0 0.905322f
c13 94 0 0.0142936f
c14 89 0 0.0119054f
c15 87 0 0.14152f
c16 86 0 0.00392904f
c17 77 0 0.132291f
c18 59 0 0.0129608f
c19 51 0 0.0891897f
c20 50 0 0.0745347f
c21 6 0 0.753885f
r22 189 190 8
r23 187 190 1.61014
r24 186 187 8
r25 180 181 8
r26 178 181 0.297143
r27 177 178 8
r28 175 178 0.258143
r29 174 175 8
r30 172 175 0.254429
r31 171 172 8
r32 169 172 0.254429
r33 168 169 8
r34 166 169 0.258143
r35 165 166 8
r36 163 166 0.2925
r37 159 163 0.1313
r38 155 247 8
r39 151 155 1.77079
r40 146 148 0.2
r41 144 146 0.2998
r42 144 177 0.1798
r43 142 177 0.1202
r44 141 148 8.16635
r45 141 146 5.44423
r46 141 144 5.44423
r47 141 142 5.44423
r48 139 141 0.418909
r49 138 141 0.415636
r50 135 137 0.2
r51 133 135 0.2998
r52 133 174 0.1798
r53 131 174 0.1202
r54 130 137 8.16635
r55 130 135 5.44423
r56 130 133 5.44423
r57 130 131 5.44423
r58 128 130 0.418909
r59 127 130 0.415636
r60 124 126 0.2
r61 122 124 0.2998
r62 122 171 0.1798
r63 120 171 0.1202
r64 119 126 8.16635
r65 119 124 5.44423
r66 119 122 5.44423
r67 119 120 5.44423
r68 117 119 0.418909
r69 116 119 0.415636
r70 113 115 0.2
r71 111 113 0.2998
r72 111 168 0.1798
r73 109 168 0.1202
r74 108 115 8.16635
r75 108 113 5.44423
r76 108 111 5.44423
r77 108 109 5.44423
r78 106 108 0.418909
r79 105 108 0.415636
r80 102 104 0.2
r81 100 102 0.2998
r82 100 165 0.1798
r83 97 165 0.1202
r84 96 104 8.16635
r85 96 102 5.44423
r86 96 100 5.44423
r87 96 97 5.44423
r88 94 96 0.415636
r89 87 151 8
r90 86 87 16.3327
r91 84 86 4.59
r92 81 82 16.3327
r93 79 81 4.59
r94 77 159 8
r95 76 77 16.3327
r96 74 76 4.608
r97 71 247 16.3327
r98 69 247 0.1748
r99 69 189 0.166
r100 68 71 17.28
r101 68 69 5.44423
r102 64 189 0.1218
r103 64 180 0.3074
r104 63 64 5.44423
r105 59 63 25.92
r106 59 180 5.44423
r107 57 68 21.582
r108 57 63 4.32
r109 55 187 0.104
r110 54 55 8
r111 51 82 0.0198
r112 50 54 0.048
r113 50 51 0.00411102
r114 18 93 0.2
r115 18 186 0.154
r116 15 186 0.046
r117 12 15 0.2
r118 9 12 0.2
r119 9 163 8
r120 6 9 0.2
r121 5 89 0.415636
r122 5 93 16.3327
r123 5 18 8.16635
r124 5 15 8.16635
r125 5 12 8.16635
r126 5 9 8.16635
r127 5 6 8.16635
.ends

.subckt PM_HW2_PART2_1_SMALLER%OUT5 5 16 27 28 38 39 49 50 60 61 71 72 82 83 93
+ 94 104 105 115
c0 156 0 1.79118f
c1 118 0 0.902434f
c2 117 0 0.0194124f
c3 108 0 1.12117f
c4 104 0 0.0221857f
c5 97 0 1.12117f
c6 93 0 0.0221857f
c7 86 0 1.12117f
c8 82 0 0.0221857f
c9 75 0 1.12117f
c10 71 0 0.0221857f
c11 64 0 1.03486f
c12 60 0 0.0199648f
c13 53 0 1.03521f
c14 49 0 0.0199648f
c15 42 0 1.03521f
c16 38 0 0.0199648f
c17 31 0 1.03521f
c18 27 0 0.0199648f
c19 19 0 0.727244f
c20 16 0 0.0174692f
c21 3 0 1.65298f
c22 2 0 0.0523501f
r23 155 156 8
r24 153 156 0.259071
r25 152 153 8
r26 150 153 0.256286
r27 149 150 8
r28 147 150 0.2535
r29 146 147 8
r30 144 147 0.261857
r31 143 144 8
r32 140 141 8
r33 138 141 0.254429
r34 137 138 8
r35 135 138 0.258143
r36 134 135 8
r37 132 135 0.251643
r38 131 132 8
r39 128 132 0.263714
r40 127 128 8
r41 122 124 0.2
r42 122 140 0.1806
r43 120 140 0.1192
r44 118 120 0.3
r45 117 124 8.16635
r46 117 122 5.44423
r47 117 120 5.44423
r48 117 118 5.44423
r49 115 117 0.418909
r50 112 114 0.2
r51 112 137 0.1806
r52 110 137 0.1192
r53 108 110 0.3
r54 107 114 8.16635
r55 107 112 5.44423
r56 107 110 5.44423
r57 107 108 5.44423
r58 105 107 0.418909
r59 104 107 0.415636
r60 101 103 0.2
r61 101 134 0.1806
r62 99 134 0.1192
r63 97 99 0.3
r64 96 103 8.16635
r65 96 101 5.44423
r66 96 99 5.44423
r67 96 97 5.44423
r68 94 96 0.418909
r69 93 96 0.415636
r70 90 92 0.2
r71 90 131 0.1806
r72 88 131 0.1192
r73 86 88 0.3
r74 85 92 8.16635
r75 85 90 5.44423
r76 85 88 5.44423
r77 85 86 5.44423
r78 83 85 0.418909
r79 82 85 0.415636
r80 79 81 0.2
r81 79 127 0.1806
r82 77 127 0.1192
r83 75 77 0.3
r84 74 81 8.16635
r85 74 79 5.44423
r86 74 77 5.44423
r87 74 75 5.44423
r88 72 74 0.418909
r89 71 74 0.415636
r90 68 70 0.2
r91 68 155 0.2206
r92 66 155 0.0792
r93 64 66 0.3
r94 63 70 16.3327
r95 63 68 5.44423
r96 63 66 5.44423
r97 63 64 5.44423
r98 61 63 0.459
r99 60 63 0.459
r100 57 59 0.2
r101 57 152 0.2206
r102 55 152 0.0792
r103 53 55 0.3
r104 52 59 16.3327
r105 52 57 5.44423
r106 52 55 5.44423
r107 52 53 5.44423
r108 50 52 0.459
r109 49 52 0.459
r110 46 48 0.2
r111 46 149 0.2206
r112 44 149 0.0792
r113 42 44 0.3
r114 41 48 16.3327
r115 41 46 5.44423
r116 41 44 5.44423
r117 41 42 5.44423
r118 39 41 0.459
r119 38 41 0.459
r120 35 37 0.2
r121 35 146 0.2206
r122 33 146 0.0792
r123 31 33 0.3
r124 30 37 16.3327
r125 30 35 5.44423
r126 30 33 5.44423
r127 30 31 5.44423
r128 28 30 0.459
r129 27 30 0.459
r130 24 26 0.2
r131 24 143 0.2206
r132 22 143 0.0792
r133 19 22 0.3
r134 18 26 16.3327
r135 18 24 5.44423
r136 18 22 5.44423
r137 18 19 5.44423
r138 16 18 0.459
r139 3 141 0.303457
r140 3 5 0.00298099
r141 2 144 0.3835
r142 2 5 0.0584477
.ends

.subckt PM_HW2_PART2_1_SMALLER%VDD 2 3 10 17 102 103 113 114 124 125 135 136 146
+ 157 217
c0 162 0 0.37252f
c1 161 0 0.0129391f
c2 149 0 0.71313f
c3 148 0 0.0138911f
c4 139 0 1.00448f
c5 135 0 0.0158756f
c6 128 0 1.0045f
c7 124 0 0.0158756f
c8 117 0 1.0045f
c9 113 0 0.0158756f
c10 106 0 1.00449f
c11 102 0 0.0158756f
c12 99 0 2.01713f
c13 98 0 0.0583434f
c14 94 0 0.285533f
c15 92 0 0.277821f
c16 90 0 2.46427f
c17 89 0 0.076163f
c18 85 0 1.74661f
c19 84 0 0.0886145f
c20 80 0 0.246963f
c21 24 0 0.586584f
c22 23 0 0.0114681f
c23 19 0 0.00222381f
r24 205 206 8
r25 199 200 8
r26 197 200 0.249786
r27 196 197 8
r28 194 197 0.259071
r29 193 194 8
r30 191 194 0.251643
r31 190 191 8
r32 188 191 0.263714
r33 187 188 8
r34 184 188 0.400214
r35 183 184 8
r36 177 178 8
r37 174 177 0.0938
r38 174 217 0.0892
r39 173 174 16.3327
r40 171 217 0.1028
r41 171 205 0.106
r42 170 173 17.28
r43 170 171 5.44423
r44 166 205 0.1818
r45 166 183 0.235
r46 165 166 5.44423
r47 162 183 0.053
r48 161 165 25.92
r49 161 162 5.44423
r50 153 155 0.2
r51 151 153 0.2998
r52 151 199 0.2198
r53 149 199 0.0802
r54 148 155 16.3327
r55 148 153 5.44423
r56 148 151 5.44423
r57 148 149 5.44423
r58 146 148 0.459
r59 143 145 0.2
r60 141 143 0.2998
r61 141 196 0.2198
r62 139 196 0.0802
r63 138 145 16.3327
r64 138 143 5.44423
r65 138 141 5.44423
r66 138 139 5.44423
r67 136 138 0.459
r68 135 138 0.459
r69 132 134 0.2
r70 130 132 0.2998
r71 130 193 0.2198
r72 128 193 0.0802
r73 127 134 16.3327
r74 127 132 5.44423
r75 127 130 5.44423
r76 127 128 5.44423
r77 125 127 0.459
r78 124 127 0.459
r79 121 123 0.2
r80 119 121 0.2998
r81 119 190 0.2198
r82 117 190 0.0802
r83 116 123 16.3327
r84 116 121 5.44423
r85 116 119 5.44423
r86 116 117 5.44423
r87 114 116 0.459
r88 113 116 0.459
r89 110 112 0.2
r90 108 110 0.2998
r91 108 187 0.2198
r92 106 187 0.0802
r93 105 112 16.3327
r94 105 110 5.44423
r95 105 108 5.44423
r96 105 106 5.44423
r97 103 105 0.459
r98 102 105 0.459
r99 99 178 2.36786
r100 98 99 8
r101 96 98 0.059
r102 90 206 2.07443
r103 89 90 8
r104 87 94 0.039111
r105 87 89 0.1002
r106 84 85 8
r107 82 92 0.039111
r108 82 84 0.1094
r109 80 96 0.0518503
r110 75 85 0.247
r111 75 200 0.403
r112 74 75 8
r113 33 36 0.2
r114 30 33 0.2
r115 30 74 0.2196
r116 24 74 0.1804
r117 23 157 0.459
r118 23 36 8.16635
r119 23 33 8.16635
r120 23 30 8.16635
r121 23 74 8.16635
r122 23 24 8.16635
r123 20 80 0.1222
r124 19 20 5.44423
r125 17 19 1.24054
r126 13 94 0.1138
r127 12 13 5.44423
r128 10 12 1.24054
r129 6 92 0.1178
r130 5 6 5.44423
r131 3 5 1.24054
r132 2 170 21.582
r133 2 165 4.32
.ends

.subckt PM_HW2_PART2_1_SMALLER%OUT3 2 29 33 45 49
c0 59 0 0.0751879f
c1 56 0 0.170868f
c2 49 0 0.382237f
c3 45 0 0.445725f
c4 41 0 0.110489f
c5 38 0 0.165119f
c6 36 0 0.0710804f
c7 32 0 0.0291997f
c8 31 0 0.101297f
c9 27 0 0.06362f
c10 26 0 0.0722221f
c11 25 0 0.0243769f
c12 18 0 0.208282f
c13 16 0 0.161556f
c14 15 0 0.0901172f
c15 10 0 0.012549f
c16 9 0 2.23302f
r17 54 56 2.3928
r18 54 55 6.6276
r19 47 56 5.72927
r20 47 49 157.8
r21 43 45 169
r22 40 41 6.6276
r23 38 43 7.04456
r24 38 40 10.6421
r25 36 59 8
r26 35 36 16.3327
r27 33 35 4.572
r28 31 55 0.07
r29 31 32 0.0415109
r30 29 30 0.0164706
r31 27 41 0.000122807
r32 27 30 0.0851198
r33 26 36 0.0062
r34 24 25 0.0782
r35 20 21 8
r36 18 25 0.039111
r37 16 24 0.039111
r38 16 32 0.427
r39 15 26 0.039111
r40 14 30 0.0107658
r41 14 15 0.202
r42 11 59 0.0663
r43 10 11 0.0363174
r44 9 21 0.0763869
r45 9 10 3.98821
r46 5 18 0.0792
r47 5 20 0.1538
r48 4 5 5.44423
r49 2 4 1.23568
.ends

.subckt PM_HW2_PART2_1_SMALLER%OUT 1 3 15 35 44
c0 70 0 0.0109064f
c1 66 0 0.0656062f
c2 60 0 0.0339298f
c3 56 0 0.131123f
c4 55 0 0.174527f
c5 53 0 0.147451f
c6 52 0 0.166244f
c7 46 0 0.195283f
c8 44 0 0.138047f
c9 38 0 0.120455f
c10 37 0 6.02548e-19
c11 33 0 0.116776f
c12 31 0 0.051379f
c13 27 0 0.220432f
c14 24 0 0.057967f
c15 16 0 5.38111f
c16 12 0 0.0777307f
r17 70 72 0.050169
r18 70 71 0.0404648
r19 69 70 8
r20 60 71 0.0646286
r21 56 66 4
r22 55 56 6.6276
r23 53 69 0.0698772
r24 53 60 8
r25 52 53 6.6276
r26 46 55 4.74225
r27 42 52 4.70854
r28 42 44 44.25
r29 37 38 16.3327
r30 35 37 4.59
r31 33 34 8
r32 31 38 0.0532
r33 27 33 0.0195555
r34 25 34 4.55631
r35 24 25 8
r36 22 31 0.039111
r37 22 24 0.054
r38 17 66 0.274486
r39 16 34 0.148571
r40 16 17 0.0363174
r41 13 25 0.0986143
r42 13 15 0.0181587
r43 12 15 0.0181587
r44 12 72 0.0473571
r45 6 27 0.1392
r46 5 6 5.44423
r47 3 5 1.23568
r48 1 46 75
.ends

.subckt PM_HW2_PART2_1_SMALLER%OUT2 1 3 18 37 44
c0 68 0 5.77086e-19
c1 62 0 0.0695707f
c2 56 0 0.142268f
c3 55 0 0.163901f
c4 52 0 0.115293f
c5 51 0 0.131683f
c6 46 0 0.23331f
c7 44 0 0.133942f
c8 36 0 0.145433f
c9 27 0 0.0694149f
c10 19 0 4.16441f
c11 16 0 0.0561823f
c12 14 0 0.0393705f
c13 13 0 0.117805f
c14 12 0 0.0218991f
c15 6 0 0.278022f
r16 56 62 4
r17 55 58 5.90526
r18 55 56 6.6276
r19 52 68 4
r20 51 52 6.6276
r21 49 51 1.67368
r22 46 49 7.04456
r23 42 58 5.62351
r24 42 44 44
r25 39 40 16.3327
r26 37 39 4.572
r27 36 40 0.0162
r28 31 32 8
r29 28 32 4.22611
r30 27 28 8
r31 25 36 0.0391311
r32 25 27 0.0536
r33 20 68 0.131486
r34 19 32 0.176429
r35 16 62 0.262414
r36 16 18 0.0181587
r37 15 28 0.143743
r38 15 18 0.0181587
r39 13 20 0.0363174
r40 13 14 0.192214
r41 12 19 0.0363174
r42 11 14 0.0363174
r43 11 12 0.0715
r44 6 31 0.1318
r45 5 6 5.44423
r46 3 5 1.23568
r47 1 46 75
.ends

.subckt PM_HW2_PART2_1_SMALLER%IN 1 7 14
c0 35 0 0.021608f
c1 32 0 0.0487945f
c2 30 0 0.0171031f
c3 27 0 0.0384221f
c4 26 0 0.150095f
c5 25 0 0.165852f
c6 22 0 0.125455f
c7 21 0 0.133248f
c8 16 0 0.240163f
c9 14 0 0.120661f
c10 4 0 5.68677f
r11 34 35 8
r12 32 42 0.0181587
r13 32 35 0.0716857
r14 29 30 8
r15 27 39 0.0181587
r16 27 30 0.0826429
r17 26 29 0.07
r18 26 39 8
r19 25 26 6.6276
r20 22 34 0.07
r21 22 42 8
r22 21 22 6.6276
r23 19 21 2.13158
r24 16 19 7.04456
r25 12 25 4.69237
r26 12 14 44
r27 5 39 0.0181587
r28 5 7 2.08186
r29 4 42 0.0181587
r30 4 7 2.72164
r31 1 16 75
.ends

.subckt PM_HW2_PART2_1_SMALLER%OUT4 63 72 75 82 86 90 94 98 102 106 110 114 122
+ 126 130 134 138 142 146 150 154
c0 196 0 0.671859f
c1 177 0 0.102283f
c2 175 0 0.830441f
c3 154 0 0.376356f
c4 150 0 0.329392f
c5 146 0 0.329392f
c6 142 0 0.329416f
c7 138 0 0.329416f
c8 134 0 0.329416f
c9 130 0 0.329416f
c10 126 0 0.329417f
c11 122 0 0.35897f
c12 114 0 0.368513f
c13 110 0 0.343101f
c14 106 0 0.343097f
c15 102 0 0.343096f
c16 98 0 0.343096f
c17 94 0 0.343096f
c18 90 0 0.343096f
c19 86 0 0.343096f
c20 82 0 0.408371f
c21 72 0 0.0181032f
c22 70 0 0.578238f
c23 69 0 0.252202f
c24 68 0 0.0287213f
c25 67 0 0.0286581f
c26 66 0 0.450066f
c27 65 0 0.0313959f
c28 64 0 0.0342357f
c29 59 0 0.0886939f
c30 51 0 0.0594884f
c31 50 0 0.110021f
c32 49 0 0.0696327f
c33 43 0 0.048779f
c34 42 0 0.0542621f
c35 12 0 0.878181f
c36 11 0 0.020669f
c37 2 0 0.668923f
r38 194 196 5.68421
r39 194 195 4.4184
r40 192 194 5.21053
r41 191 192 10.8947
r42 190 195 0.21
r43 189 191 10.8947
r44 189 190 4.4184
r45 187 189 10.8947
r46 186 187 10.8947
r47 185 190 0.21
r48 184 186 5.21053
r49 184 185 4.4184
r50 182 184 5.68421
r51 181 182 10.8947
r52 180 185 0.21
r53 179 181 10.4211
r54 179 180 4.4184
r55 177 179 0.473684
r56 175 176 4.4184
r57 173 175 0.944923
r58 172 173 10.6885
r59 171 172 10.6885
r60 170 176 0.21
r61 169 171 4.16695
r62 169 170 4.4184
r63 167 169 6.52151
r64 166 167 10.6885
r65 165 170 0.21
r66 164 166 9.27883
r67 164 165 4.4184
r68 162 164 1.40964
r69 161 162 10.6885
r70 160 161 10.6885
r71 159 165 0.21
r72 158 160 3.70224
r73 158 159 4.4184
r74 156 158 6.98623
r75 152 196 5.62351
r76 152 154 163.25
r77 148 192 5.62351
r78 148 150 163.25
r79 144 191 5.62351
r80 144 146 163.25
r81 140 189 5.62351
r82 140 142 163.25
r83 136 187 5.62351
r84 136 138 163.25
r85 132 186 5.62351
r86 132 134 163.25
r87 128 182 5.62351
r88 128 130 163.25
r89 124 181 5.62351
r90 124 126 163.25
r91 120 177 5.62351
r92 120 122 163.25
r93 112 173 5.71313
r94 112 114 166.8
r95 108 172 5.71313
r96 108 110 166.8
r97 104 171 5.71313
r98 104 106 166.8
r99 100 167 5.71313
r100 100 102 166.8
r101 96 166 5.71313
r102 96 98 166.8
r103 92 162 5.71313
r104 92 94 166.8
r105 88 161 5.71313
r106 88 90 166.8
r107 84 160 5.71313
r108 84 86 166.8
r109 80 156 5.71313
r110 80 82 166.8
r111 70 195 0.07
r112 68 180 0.07
r113 68 69 0.0411924
r114 67 69 0.604
r115 66 176 0.0698772
r116 66 67 0.0405581
r117 64 159 0.0701228
r118 64 65 0.0409969
r119 59 61 0.0563218
r120 59 60 0.00391028
r121 50 52 0.039111
r122 50 51 0.099
r123 49 51 0.039111
r124 48 70 0.0985082
r125 48 49 0.146
r126 45 63 0.0195555
r127 45 65 0.071
r128 43 61 0.00391028
r129 42 63 0.0195555
r130 42 43 0.107
r131 20 78 0.2
r132 18 20 0.2
r133 16 18 0.2
r134 14 16 0.2
r135 12 14 0.2
r136 12 60 0.0212
r137 11 78 16.3327
r138 11 75 0.418909
r139 11 20 8.16635
r140 11 18 8.16635
r141 11 16 8.16635
r142 11 14 8.16635
r143 11 12 8.16635
r144 8 10 0.2
r145 6 8 0.2
r146 4 6 0.2
r147 2 4 0.2
r148 2 52 0.0062
r149 1 72 0.4572
r150 1 10 8.16635
r151 1 8 8.16635
r152 1 6 8.16635
r153 1 4 8.16635
r154 1 2 8.16635
.ends

